US04638067
To 22.3 g (76.6 mmol) of the ethyl 7-acetyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate in 900 ml of dimethylformamide was added 25.6 g (2.5 eq) of potassium carbonate and 22 ml (3.6 eq) of ethyl iodide. The mixture was stirred at 45° C. overnight. The mixture was concentrated. The residue was dissolved in water and extracted into dichloromethane. The dichloromethane was concentrated and the residual oil was purified by column chromatography on silica gel to give 10.5 g of ethyl 7-acetyl-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinoline carboxylate, mp 129°-130° C.

reactant | ethyl 7-acetyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 76.6 mmol, 22.3 g | C(C)(=O)C1=C(C=C2C(C(=CNC2=C1F)C(=O)OCC)=O)F | C14H11F2NO4
reactant | potassium carbonate | 25.6 g, 2.5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 22 ml, 3.6 eq | C(C)I | C2H5I
solvent | dimethylformamide | 900 ml | CN(C=O)C | C3H7NO
product | ethyl 7-acetyl-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinoline carboxylate | 10.5 g | C(C)(=O)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)OCC)=O)F | C16H15F2NO4
